US06111101
There is disclosed an improved process for the preparation of 3,5-diamino-6-(2,3-dichlorophenyl)-1,2,4-triazine which process comprises the step of reacting 2,3-dichlorobenzoylchloride with cuprous cyanide in presence of acetonitrile and a cosolvent to produce dichlorobenzoyl cyanide, said dichlorobenzoyl cyanide is reacted with aminoguanidine bicarbonate to produce an intermediate product, which is cyclized in presence of aqueous potassium hydroxide to produce 3,5-diamino-6-(2,3-dichlorophenyl)-1,2,4-triazine.

reactant | dichlorobenzoyl cyanide | ClC=1C(=C(C(=O)C#N)C=CC1)Cl | C8H3Cl2NO
reactant | aminoguanidine bicarbonate | C(O)(O)=O.NNC(=N)N
reactant | potassium hydroxide | [OH-].[K+]
product | 3,5-diamino-6-(2,3-dichlorophenyl)-1,2,4-triazine | NC=1N=NC(=C(N1)N)C1=C(C(=CC=C1)Cl)Cl | C9H7Cl2N5
